US04379156
Sodium hydride in mineral oil (2.1 g, 60% w/w) was added in portions to a stirred suspension of 2-methyl-N-(5-nitro-2-thiazolyl)benzamide (10.5 g) in N,N-dimethylformamide (100 ml). When the evolution of hydrogen ceased, 2-iodoacetamide (11.1 g) was added in portions. The mixture was stirred at room temperature for ca 1 hr., then poured into ice-water. Recrystallization of the separated solid from acetic acid afforded 2-[(2-methylbenzoyl)imino]-5-nitro-4-thiazoline-3-acetamide, m.pt 248°-250°.

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-methyl-N-(5-nitro-2-thiazolyl)benzamide | 10.5 g | CC1=C(C(=O)NC=2SC(=CN2)[N+](=O)[O-])C=CC=C1 | C11H9N3O3S
reactant | hydrogen | [H][H] | H2
reactant | 2-iodoacetamide | 11.1 g | ICC(=O)N | C2H4INO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-[(2-methylbenzoyl)imino]-5-nitro-4-thiazoline-3-acetamide | CC1=C(C(=O)N=C2SC(=CN2CC(=O)N)[N+](=O)[O-])C=CC=C1 | C13H12N4O4S
